US04959393
Subsequently, 30.0 g of zinc powder was mixed with 2.50 g of mercuric chloride, 1.5 ml of concentrated hydrochloric acid and 38 ml of water and shaken for 5 minutes, followed by decantation to discard the aqueous phase. Thereafter, 20 ml of water, 45 ml of concentrated hydrochloric acid, 25 ml of toluene and 14.6 g of the previously obtained n-hexanoyl resorcinol were added in this order, followed by refluxing under heating conditions for 30 hours. During the refluxing, 12.5 ml of concentrated hydrochloric acid was added four times every 6 hours in order to keep the concentration of the acid. The reaction solution was cooled down to room temperature and subjected to liquid separation. The resultant aqueous phase was extracted three times with 50 ml of isopropyl ether and combined with the organic phase, followed by washing with 100 ml of water. The solvent was distilled off by means of an evaporator and the residue was crystallized from n-hexane to obtain 4.3 g of n-hexyl resorcinol as colorless needle crystals.

reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | water | 38 ml | O | H2O
reactant | water | 20 ml | O | H2O
reactant | hydrochloric acid | 45 ml | Cl | ClH
reactant | n-hexanoyl resorcinol | C(CCCCC)(=O)C1=C(O)C=CC=C1O | C12H16O3
reactant | hydrochloric acid | 12.5 ml | Cl | ClH
catalyst | zinc | 30.0 g | [Zn] | Zn
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | n-hexyl resorcinol | 4.3 g | C(CCCCC)C1=C(O)C=CC=C1O | C12H18O2
